US09382188B2
B) 3-(((tert-butyldiphenylsilyl)oxy)methyl)benzaldehyde
To a solution of (3-(((tert-butyldiphenylsilyl)oxy)methyl)phenyl)methanol (6.96 g) in THF (37 mL) was added manganese(IV) oxide (8.03 g), and the mixture was stirred at room temperature for 5.5 hr. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (6.61 g) as a pale-yellow oil.

reactant | (3-(((tert-butyldiphenylsilyl)oxy)methyl)phenyl)methanol | 6.96 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C(C=CC1)CO | C24H28O2Si
solvent | THF | 37 mL | C1CCOC1 | C4H8O
catalyst | manganese(IV) oxide | 8.03 g | [O-2].[Mn+4].[O-2]
product | 3-(((tert-butyldiphenylsilyl)oxy)methyl)benzaldehyde | 6.61 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C(C=O)C=CC1 | C24H26O2Si
